US06617458B2
1-(2-carboxyethyl)-4-cyanomethyl-pyridinium Iodide
4-cyanomethyl-pyridine 475 milligrams (0.004) mole were mixed with 1.0 gram of 3-iodopropionic acid (excess) in 100 ml round bottom flask. The flask was closed using a rubber septem and heated at 130 degrees Celsius using an oil bath for six hours. The flask was allowed to cool to ambient temperature and the reaction product was washed by triturating with ether. Acetone 30 ml was added and kept at room temperaturea for 12 hours. The precipitated product was filtered and washed with acetone, 755 mg (79%) of product was obtained.

reactant | 4-cyanomethyl-pyridine | 475 milligrams | C(#N)CC1=CC=NC=C1 | C7H6N2
reactant | 3-iodopropionic acid | 1.0 gram | ICCC(=O)O | C3H5IO2
product | 1-(2-carboxyethyl)-4-cyanomethyl-pyridinium Iodide | 755 mg, 79% | [I-].C(=O)(O)CC[N+]1=CC=C(C=C1)CC#N | InChI=1S/C10H10N2O2.HI/c11-5-1-9-2-6-12(7-3-9)8-4-10(13)14;/h2-3,6-7H,1,4,8H2;1H
